US05952368
{2-{5-(4-Chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}amine (0.3 g, 0.88 mmol) was dissolved in THF (4 ml), and the solution was cooled to 0° C. Methyl isocyanate (0.062 ml, 1.06 mmol) was added and the reaction mixture was stirred overnight at ambient temperature. Additional methyl isocyanate (0.062 ml) was added and the mixture was stirred for an additional 24 h. The reaction mixture was concentrated under vacuum and the residue was crystallized from hexane-chloroform to give 1-{2-[5-(4-chlorobenzoyl)-1,4-di-methyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}-3-methylurea (240 mg, 69%), mp 234.0-235.5° C.

reactant | {2-{5-(4-Chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}amine | 0.88 mmol, 0.3 g | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC2=NC=C(C=C2)N)C)C=C1 | C19H18ClN3O
reactant | Methyl isocyanate | 1.06 mmol, 0.062 ml | CN=C=O | C2H3NO
reactant | methyl isocyanate | 0.062 ml | CN=C=O | C2H3NO
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 1-{2-[5-(4-chlorobenzoyl)-1,4-di-methyl-1H-pyrrol-2-ylmethyl]pyridin-5-yl}-3-methylurea | 240 mg, 69% | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC2=NC=C(C=C2)NC(=O)NC)C)C=C1 | C21H21ClN4O2
